US08664220B2
Step 1: 1-{4′-[3-Methyl-4-(4-phenyl-[1,2,3]triazol-1-ylmethyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester
Prepared according to the procedure described in Example 5, Step 3, using 1-[4′-(4-bromomethyl-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester and 4-phenyl-1H-1,2,3-triazole.

reactant | 1-[4′-(4-bromomethyl-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CBr | C23H22BrNO3
reactant | 4-phenyl-1H-1,2,3-triazole | C1(=CC=CC=C1)C=1N=NNC1 | C8H7N3
product | 1-{4′-[3-Methyl-4-(4-phenyl-[1,2,3]triazol-1-ylmethyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CN1N=NC(=C1)C1=CC=CC=C1 | C31H28N4O3
